US06838464B2
Method 23 4-[2-(Isopropylamino)ethylamino]nitrobenzene
N-Isopropylethylenediamine (4.87 ml, 39.0 mmol) and potassium carbonate (6.37 g, 46.0 mmol) were added to a solution of 4-fluoronitrobenzene (5.0 g, 35.0 mmol) in DMF (50 ml) and the mixture was heated at 70° C. for 3 hours under a nitrogen atmosphere. Insoluble material was removed by filtration and the filtrate was concentrated. The residue was dissolved in ethyl acetate (300 ml) and the solution was washed with water (3×100 ml) and saturated sodium chloride (50 ml) and dried. The solvent was removed by evaporation to give the product as an orange oil which crystallised on standing (7.55 g, 95%). NMR: 1.0 (d, 6H), 1.7 (m, 1H), 2.7 (m, 3H), 3.2 (m, 1H), 6.6 (m, 2H), 7.1 (m, 1H), 8.0 (m, 2H); MS (MH+): 224.

reactant | N-Isopropylethylenediamine | 39.0 mmol, 4.87 ml | C(C)(C)NCCN | C5H14N2
reactant | potassium carbonate | 46.0 mmol, 6.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | 35.0 mmol, 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-[2-(Isopropylamino)ethylamino]nitrobenzene | C(C)(C)NCCNC1=CC=C(C=C1)[N+](=O)[O-] | C11H17N3O2
